US07696216B2
B. Synthesis of 3-(2-methanesulphinyl-ethoxy)-benzaldehyde
A solution of 1.6 g (8.15 mmol) 3-(2-methylsulphanyl-ethoxy)-benzaldehyde and 1 ml (9.78 mmol) hydrogen peroxide solution in 30 ml acetic acid is stirred for 2 h at room temperature. Then the reaction mixture is poured onto 4N NaOH and extracted with ethyl acetate. The combined organic layers are washed with sodium bisulphite solution, water and brine, dried over MgSO4, filtered and concentrated in vacuo to afford the title compound as a colorless solid, sufficiently pure for the next step.

reactant | 3-(2-methylsulphanyl-ethoxy)-benzaldehyde | 8.15 mmol, 1.6 g | CSCCOC=1C=C(C=O)C=CC1 | C10H12O2S
reactant | hydrogen peroxide | 9.78 mmol, 1 ml | OO | H2O2
reactant | NaOH | 4N | [OH-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-(2-methanesulphinyl-ethoxy)-benzaldehyde | CS(=O)CCOC=1C=C(C=O)C=CC1 | C10H12O3S
